US05002361
B. 4-(N-2-acetoxyethyl-N-ethylamino)benzaldehyde
To a stirred solution of 193.2 g (1 mole) of 4-(N-2-hydroxyethyl-N-ethylamino)benzaldehyde in dichloromethane are added 153.1 g (1.5 moles) of acetic anhydride, 151.8 g (1.5 moles) of triethylamine, and 8.5 g (7 mole %) of 4-N,N-dimethylaminopyridine. The reaction mixture is stirred at room temperature for 16 hours. The product solution then is washed with cold 2N HCl followed by saturated sodium bicarbonate, and the organic layer is filtered through cotton, and evaporated to dryness.

reactant | 4-(N-2-hydroxyethyl-N-ethylamino)benzaldehyde | 1 mole, 193.2 g | OCCN(CC)C1=CC=C(C=O)C=C1 | C11H15NO2
reactant | acetic anhydride | 1.5 moles, 153.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.5 moles, 151.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(N-2-acetoxyethyl-N-ethylamino)benzaldehyde | C(C)(=O)OCCN(CC)C1=CC=C(C=O)C=C1 | C13H17NO3
